US08486968B2
(f) N-(2,4-Dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide
1,1′-Thiocarbonyldi-2-pyridone (4.87 g, 21 mmol) is added to a mixture of N-(3-amino-2,4-dichloro-benzyl)-2,2-dimethyl-propionamide (5.50 g, 20 mmol) and dioxane (200 mL) and stirred at rt for 2 h and at reflux for 8 h. The mixture is concentrated, diluted with DCM and filtered over silica gel. The filtrate is concentrated to give the sub-title compound.

reactant | 1,1′-Thiocarbonyldi-2-pyridone | 21 mmol, 4.87 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | N-(3-amino-2,4-dichloro-benzyl)-2,2-dimethyl-propionamide | 20 mmol, 5.50 g | NC=1C(=C(CNC(C(C)(C)C)=O)C=CC1Cl)Cl | C12H16Cl2N2O
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | N-(2,4-Dichloro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide | ClC1=C(CNC(C(C)(C)C)=O)C=CC(=C1N=C=S)Cl | C13H14Cl2N2OS
